US08629137B2
3-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-5-fluoro-benzonitrile
0.161 g (3.70 mmol) sodium hydride (55%, suspension in mineral oil) were added to 1.00 g (3.38 mmol) 3-fluoro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-benzonitrile in 5 mL DMF at RT and stirred for 30 min at RT. Then 0.317 mL (5.00 mmol) iodomethane were added and the mixture was stirred for 1 h at RT. Then a further 0.1 mL iodomethane were added and stirring was continued at RT. After dilution with ice water the aqueous phase was extracted with EtOAc. The organic phase was washed with water, dried on sodium sulphate, filtered and evaporated down i. vac. The residue was purified by flash chromatography. The fractions containing the product were combined, evaporated down and dried i. vac.

reactant | sodium hydride | 3.70 mmol, 0.161 g | [H-].[Na+]
reactant | 3-fluoro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-benzonitrile | 3.38 mmol, 1.00 g | FC=1C=C(C#N)C=C(C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C16H9FN2O3
reactant | iodomethane | 5.00 mmol, 0.317 mL | IC | CH3I
reactant | iodomethane | 0.1 mL | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-5-fluoro-benzonitrile | CN1C(OC2=C1C(=CC(=C2)C(=O)C=2C=C(C#N)C=C(C2)F)C)=O | C17H11FN2O3
